* C:\Users\Arumugam\Desktop\mos_inverter.asc
M1 y a 0 0 n_mos
M2 N001 a y N001 p_mos
V1 N001 0 5
V2 a 0 PULSE(0 1 0 0.01 0.01 1 2 20)
C1 y 0 150f
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Arumugam\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20
.inc osulib.lib
.backanno
.end
